US06586630B1
(3) Synthesis of 2-tert-Butyl-5-formyl-furan-3-sulfonamide
At room temperature, 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3 (1H)-one (0.60 g) was added to a solution of 2-tert-butyl-5-hydroxymethyl-furan-3-sulfonamide (0.30 g) in methylene chloride (10 ml), followed by stirring for 25 min. The reaction mixture was mixed with a 20% aqueous sodium thiosulfate solution, extracted with methylene chloride. The organic layer was washed with a saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate and evaporated under reduced pressure to remove the solvent; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: n-hexane:ethyl acetate=2:1) to give the titled compound (267 mg, 90%).

reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3 (1H)-one | 0.60 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 2-tert-butyl-5-hydroxymethyl-furan-3-sulfonamide | 0.30 g | C(C)(C)(C)C=1OC(=CC1S(=O)(=O)N)CO | C9H15NO4S
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-tert-Butyl-5-formyl-furan-3-sulfonamide | 267 mg, 90% | C(C)(C)(C)C=1OC(=CC1S(=O)(=O)N)C=O | C9H13NO4S
